US07223772B1
v) 2-(3-Fluoro-phenyl)-6-trifluoromethyl-pyrazolo[1,5-a]pyridine-3-carboxylic acid
To a suspension of 2-(3-fluoro-phenyl)-6-trifluoromethyl-pyrazolo[1,5-a]pyridine-3-carboxylic acid methyl ester (448 mg) in ethanol (10 ml) was added 2N sodium hydroxide and heated at reflux for 3 h. The cooled reaction mixture was acidified with 2N hydrochloric acid and the resulting solid isolated by filtration and dried in vacuo at 60° to give the title compound as an off-white solid (403 mg, 93%).

reactant | 2-(3-fluoro-phenyl)-6-trifluoromethyl-pyrazolo[1,5-a]pyridine-3-carboxylic acid methyl ester | 448 mg | COC(=O)C=1C(=NN2C1C=CC(=C2)C(F)(F)F)C2=CC(=CC=C2)F | C16H10F4N2O2
reactant | sodium hydroxide | 2N | [OH-].[Na+]
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 2-(3-Fluoro-phenyl)-6-trifluoromethyl-pyrazolo[1,5-a]pyridine-3-carboxylic acid | 403 mg, 93% | FC=1C=C(C=CC1)C1=NN2C(C=CC(=C2)C(F)(F)F)=C1C(=O)O | C15H8F4N2O2
